US09371318B2
Step 6: 4-(2-Oxoethyl)benzyl 3-((3-((S)-phenyl((((R)-quinuclidin-3-yloxy)carbonyl)amino)methyl)phenoxy)methyl)benzoate
To a stirred solution of 4-(2,2-dimethoxyethyl)benzyl 3-((3-((S)-phenyl((((R)-quinuclidin-3-yloxy)carbonyl)amino)methyl)phenoxy)methyl)benzoate (0.100 g, 0.15 mmol) in acetone (5 mL) was added para-toluenesulfonic acid monohydrate (0.086 g, 0.45 mmol) and the mixture stirred at RT for 1 hour. The reaction mixture was diluted with saturated sodium hydrogen carbonate and extracted with ethyl acetate. The combined organic extracts were dried (magnesium sulfate), filtered and the solvent evaporated at reduced pressure. The residue was used in the next step with no further purification.

reactant | 4-(2,2-dimethoxyethyl)benzyl 3-((3-((S)-phenyl((((R)-quinuclidin-3-yloxy)carbonyl)amino)methyl)phenoxy)methyl)benzoate | 0.15 mmol, 0.100 g | C1(=CC=CC=C1)[C@@H](C=1C=C(OCC=2C=C(C(=O)OCC3=CC=C(C=C3)CC(OC)OC)C=CC2)C=CC1)NC(=O)O[C@H]1CN2CCC1CC2 | C40H44N2O7
reactant | para-toluenesulfonic acid monohydrate | 0.45 mmol, 0.086 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | acetone | 5 mL | CC(=O)C | C3H6O
solvent | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
product | 4-(2-Oxoethyl)benzyl 3-((3-((S)-phenyl((((R)-quinuclidin-3-yloxy)carbonyl)amino)methyl)phenoxy)methyl)benzoate | C1(=CC=CC=C1)[C@@H](C=1C=C(OCC=2C=C(C(=O)OCC3=CC=C(C=C3)CC=O)C=CC2)C=CC1)NC(=O)O[C@H]1CN2CCC1CC2 | C38H38N2O6
